US07767690B2
d) [1-(5(S)-tert-butoxycarbonylamino-3,3-dimethyl-6-oxo-hexanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester
2.10 ml of triethylamine are added to a solution of 2.34 g of [1-(5(S)-tert-butoxycarbonylamino-6-hydroxy-3,3-dimethyl-hexanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester in 20 ml of methylene chloride under argon at 0° C. The mixture is stirred for 5 minutes at 0° C. and then a solution of 2.65 g of pyridine sulfur trioxide in 12 ml of dimethylsulfoxide is added dropwise at 0-5° C. over 1 hour. The mixture is stirred at 0-5° C. for 30 minutes and then ice water is added dropwise to the mixture at 0-10° C. The mixture is stirred at 10° C. for 10 minutes and then extracted with methylene chloride (3×). The combined organic layers are washed successively with 10% aqueous sodium hydrogensulfate solution, water, 10% aqueous sodium bicarbonate solution and brine, dried over sodium sulphate, filtered and concentrated. The title compound is obtained as a white solid. Rf=0.44 (3:1 EtOAc-heptane); Rt=4.17 (gradient I).

reactant | triethylamine | 2.10 ml | C(C)N(CC)CC | C6H15N
reactant | [1-(5(S)-tert-butoxycarbonylamino-6-hydroxy-3,3-dimethyl-hexanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester | 2.34 g | COC(NC1CN(C2=CC=CC=C2C1)C(CC(C[C@@H](CO)NC(=O)OC(C)(C)C)(C)C)=O)=O | C24H37N3O6
reactant | pyridine sulfur trioxide | 2.65 g | S(=O)(=O)=O.N1=CC=CC=C1
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylsulfoxide | 12 ml | CS(=O)C | C2H6OS
product | [1-(5(S)-tert-butoxycarbonylamino-3,3-dimethyl-6-oxo-hexanoyl)-1,2,3,4-tetrahydro-quinolin-3(R,S)-yl]-carbamic acid methyl ester | COC(NC1CN(C2=CC=CC=C2C1)C(CC(C[C@@H](C=O)NC(=O)OC(C)(C)C)(C)C)=O)=O | C24H35N3O6
